US07312214B2
2-Hydroxyethyl-2-{4-[1-(4-methoxypheny)-3-(methlysulfonyl)-7-oxo-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}-2-methylpropanoate
2-{4-[3-Methanesulfonyl-1-(4-methoxyphenyl)-7-oxo-1,4,5,7-tetrahydropyrazolo[3,4-c]pyridin-6-yl]phenyl}-2-methylproprionic acid methyl ester (0.077 g, 0.15 mmol) was placed in a sealed tube containing 10% ammonia in ethylene glycol (3 mL) and heated 80° C. for 2 h. The reaction was cooled, quenched with H2O, extracted with EtOAc, and dried (MgSO4). Purification by chromatography on silica (1:1 hexanes/ethyl acetate) and then HPLC purification afforded 27 mg (33%) title compound. High Resolution Mass Spec (M+H)+ for C26H30N3O7S 528.1776.

reactant | 2-{4-[3-Methanesulfonyl-1-(4-methoxyphenyl)-7-oxo-1,4,5,7-tetrahydropyrazolo[3,4-c]pyridin-6-yl]phenyl}-2-methylproprionic acid methyl ester | 0.15 mmol, 0.077 g | COC(C(C)(C)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)S(=O)(=O)C)=O)=O | C25H27N3O6S
reactant | ammonia | N | H3N
reactant | ethylene glycol | 3 mL | C(CO)O | C2H6O2
product | 2-Hydroxyethyl-2-{4-[1-(4-methoxypheny)-3-(methlysulfonyl)-7-oxo-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}-2-methylpropanoate | 27 mg, 33% | OCCOC(C(C)(C)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)S(=O)(=O)C)=O)=O | C26H29N3O7S
